US05457225
In an atmosphere of argon, 10 ml of dichloromethane and 1.92 g (7.5 mmol) of titanium monochlorotriisopropoxide were placed in a schlenk tube, and cooled to 0° C. with stirring. To the dichloromethane solution, 0.99 g (7.5 mmol) of E-cinnamaldehyde and 1.16 ml (15 mmol) of diketene were added, and vigorously stirred at 0° C. over 21 hours to obtain a reaction mixture. To the reaction mixture, 0.6 ml of isopropyl alcohol was added, and vigorously stirred at 0° C. over 1 hour. The reaction mixture was added to a mixed solution of 50 ml of 1N HCl and 50 ml of diethyl ether, and vigorously stirred at room temperature over 15 hours to give a solution. The solution was extracted with three portions of 10 ml of dichloromethane. The dichloromethane portions were combined, and dried by adding anhydrous magnesium sulfate. The solvent of the solution was removed by distillation in vacuo to obtain a concentrated solution. The concentrated solution was placed on a silica gel column and eluted with a mixture of hexane and ethyl acetate (hexane:ethyl acetate=7:3) to give 0.64 g of isopropyl E-5-hydroxy-3-oxo-7-phenyl-6-heptenoate (yield: 31% based on the amount of E-cinnamaldehyde).

reactant | dichloromethane | 10 ml | ClCCl | CH2Cl2
reactant | E-cinnamaldehyde | 7.5 mmol, 0.99 g | C(\C=C\C1=CC=CC=C1)=O | C9H8O
reactant | diketene | 15 mmol, 1.16 ml | C=C1CC(=O)O1 | C4H4O2
reactant | HCl | 1N, 50 ml | Cl | ClH
reactant | diethyl ether | 50 ml | C(C)OCC | C4H10O
solvent | isopropyl alcohol | 0.6 ml | C(C)(C)O | C3H8O
product | isopropyl E-5-hydroxy-3-oxo-7-phenyl-6-heptenoate | 0.64 g, yield: 31% | OC(CC(CC(=O)OC(C)C)=O)\C=C\C1=CC=CC=C1 | C16H20O4
